Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]1=[C:3][O:4][C:5]([H:6])([H:7])[C:8]1[C:9]([H:10])([H:11])[H:12]>>[H:1]/[C:2]([C:3][O:4][C:5]([H:6])[H:7])=[C:8]\[C:9]([H:10])([H:11])[H:12],4.1152757746300015
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3](=[C:4][H:5])[C:10]([H:11])([H:12])[H:13],4.57526702374
[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9]>>[C:1]=[C:2]1[O:3][C@:4]1([H:5])[C:6]([H:7])[O:8][H:9],0.72165008734
[C:8]([H:9])([H:10])[H:11].[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-1.86589675834
[C:1]#[C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10],-2.3897146515400003
[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-1.3967416627899998
[C:5]([H:6])#[C:7][C:8]([H:9])[H:10].[O:1]=[C:2][O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10],-3.75652675171
[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[O:7][H:8]>>[H:6].[O:1]=[C:2]=[C:3][C:4]([H:5])[O:7][H:8],1.75100948677
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]#[C:4][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:5],2.4015810767700003
[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10].[H:1][C:2]=[O:3],0.934258034029
[C:3]([H:4])([H:5])[H:6].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([H:4])([H:5])[H:6],-0.962044585621
[O:1][C:2]([H:3])([H:4])[C:5](=[C:6]=[O:7])[C:8]([H:9])([H:10])[H:11]>>[C:2]([H:3])([H:4])[C:5](=[C:6]=[O:7])[C:8]([H:9])([H:10])[H:11].[O:1],3.56323398655
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]=[O:12]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C@:9]1([H:10])[C:11][O:12]1,1.91666732132
[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-3.98128829365
[H:1][C:2](=[O:3])[C:5]([O:4])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]1[O:3][O:4][C:5]1([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],2.52122908961
[O:1]=[C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[O:1]=[C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11],4.626635856519999
[C:5]([H:6])([H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15],-0.907275069811
[C:13]([H:14])[H:15].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-5.18874139839
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6]/[O:8][C:9]([H:10])[H:11].[H:7],4.69373088845
[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11],-1.5931860333
[H:1][C:5](=[C:4]([O:3][C:2]#[C:10][C:6]([H:7])([H:8])[H:9])[H:11])[H:12]>>[H:1][C:2]1[O:3][C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]1([H:11])[H:12],0.8170596267199999
[H:1][C:2][O:3][C:4]1=[C:5]([H:6])[C:7]1=[C:8]([H:9])[H:10]>>[H:1][C:2][O:3][C:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10],1.10528030901
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:15].[H:1][C:2]([H:3])([H:4])[C:5]=[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.24513343277
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]#[C:4][H:5],1.7261207188099998
[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-3.70421769733
[C:1]#[C:2][C:3][C:7]([H:6])[H:8].[C:4]([H:5])=[C:9]([H:10])[H:11]>>[C:1]#[C:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-2.99720572714
[H:1].[O:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],-1.4110508869100002
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:9],1.74867922313
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][H:9],3.2235725418
